US06372777B1
Preparation of 1-(3-Fluorophenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
m-Fluoroaniline (5 mmol, 0.6 g), 2-benzoyl-4-oxo-pentanoic acid ethyl ester (5 mmol, 1.2 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The resulting oil was resuspended in chloroform, then washed with water, 5% sodium bicarbonate, and brine. The organic layer was dried over NaSO4, then the solids filtered away and the solvents removed under vacuum. The named product was recrystallized from ethanol (m.p. 100° C.-101° C.).

reactant | m-Fluoroaniline | 5 mmol, 0.6 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | 2-benzoyl-4-oxo-pentanoic acid ethyl ester | 5 mmol, 1.2 g | C(C)OC(C(CC(C)=O)C(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(3-Fluorophenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C)C1=CC(=CC=C1)F)C1=CC=CC=C1 | C20H18FNO2
